US07781596B1
a) Ethyl 2-(4-nitrophenyl)benzimidazole-4-carboxylate
1.5 g (8.3 mmol) of ethyl 2,3-diaminobenzoate and 1.1 ml of concentrated acetic acid were dissolved in 50 ml of methanol. 1.6 g (10.8 mmol) of 4-nitrobenzaldehyde, dissolved in 150 ml of methanol, were then added dropwise over a period of 30 minutes. 2.2 g (10.8 mmol) of copper(II) acetate, dissolved in 100 ml of warm water, were then rapidly added dropwise, and the entire mixture was subsequently refluxed for 20 minutes. The reaction solution was cooled to 50° C. and 3 ml of 32% strength hydrochloric acid were added. This was followed by careful dropwise addition of a solution of 3.1 g of sodium sulfide hydrate in 50 ml of water, and the entire mixture was stirred for another 15 minutes. The reaction solution was poured into ice-water and the resulting precipitate was filtered off with suction. The filtrate was made alkaline using aqueous sodium bicarbonate solution and extracted repeatedly with ethyl acetate. The ethyl acetate phase was separated off, dried and concentrated under reduced pressure. This gave 2.2 g of the intermediate.

reactant | ethyl 2,3-diaminobenzoate | 8.3 mmol, 1.5 g | NC1=C(C(=O)OCC)C=CC=C1N | C9H12N2O2
reactant | 4-nitrobenzaldehyde | 10.8 mmol, 1.6 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium sulfide hydrate | 3.1 g | O.[S-2].[Na+].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
catalyst | copper(II) acetate | 10.8 mmol, 2.2 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | acetic acid | 1.1 ml | C(C)(=O)O | C2H4O2
product | Ethyl 2-(4-nitrophenyl)benzimidazole-4-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2C(=O)OCC | C16H13N3O4
